US06140494
5-Iodopentyl acetate
5-Chloropentyl acetate (26.5 g, 0.16 mol) was added to a solution of sodium iodide (45 g, 0.30 mol) in dry acetone (200 ml). The resulting pale yellow solution was heated at reflux for 65 h, during which time a white solid separated (sodium chloride). The final mixture was cooled to room temperature and filtered to remove the NaCl, which was washed with acetone and diethyl ether, then dried under vacuum at 50° C. Expected yield of NaCl=9.4 g; isolated yield=9.47 g (100%).

reactant | 5-Chloropentyl acetate | 0.16 mol, 26.5 g | C(C)(=O)OCCCCCCl | C7H13ClO2
reactant | sodium iodide | 0.30 mol, 45 g | [I-].[Na+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 5-Iodopentyl acetate | C(C)(=O)OCCCCCI | C7H13IO2
